US04959364
Preparation of 2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxy phenyl]thio]pentanoic acid
The title compound was prepared according to the method of Example 41 from potassium hydroxide flakes (3.36 g, 0.06 mole), 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (4.76 g, 0.02 mole) and ethyl-2-bromovalerate (4.18 g, 0.02 mole) in acetone (100 ml). The structure was confirmed by NMR.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 0.02 mole, 4.76 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | ethyl-2-bromovalerate | 0.02 mole, 4.18 g | C(C)OC(C(CCC)Br)=O | C7H13BrO2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxy phenyl]thio]pentanoic acid | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C(=O)O)CCC | C19H30O3S
